US05846982
5-fluoro-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole
Beginning with 1.00 gm (7.4 mMol) 5-fluoro-1H-indole and 1.82 mL (14.8 mmol) 1-methyl-4-piperidone, 1.60 gm (94%) of the title compound were recovered as a crystalline solid.

reactant | 5-fluoro-1H-indole | 7.4 mMol, 1.00 gm | FC=1C=C2C=CNC2=CC1 | C8H6FN
reactant | 1-methyl-4-piperidone | 14.8 mmol, 1.82 mL | CN1CCC(CC1)=O | C6H11NO
product | 5-fluoro-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 1.60 gm, 94% | FC=1C=C2C(=CNC2=CC1)C=1CCN(CC1)C | C14H15FN2
